US08217028B2
A solution of ethyl (2E)-3-(7-cyano-4-fluoro-1H-indol-3-yl)-2-propenoate (D43) (10.0 g) in THF (100 mL) under H2 (30 psi) atmosphere was hydrogenated by using the catalyst of Pd/C (with 50% water, 3.0 g). The reaction was stirred for about 6 hours. TLC showed the starting material was completely consumed. Then Pd/C was removed by filtration. The filtrate was concentrated. The residue was purified by column chromatography on silical gel to afford ethyl 3-(7-cyano-4-fluoro-1H-indol-3-yl)propanoate (D44) (6.0 g) as a white solid. δH (CDCl3, 400 MHz): 1.25 (3H, t), 2.72 (2H, t), 3.18 (2H, t), 4.14 (2H, q), 6.82 (1H, t), 7.10 (1H, s), 7.45 (1H, q), 8.88 (1H, s). MS (ES): C14H13FN2O2 requires 260; found 261.1 (M+H+).

reactant | ethyl (2E)-3-(7-cyano-4-fluoro-1H-indol-3-yl)-2-propenoate | 10.0 g | C(#N)C=1C=CC(=C2C(=CNC12)/C=C/C(=O)OCC)F | C14H11FN2O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 3.0 g | [Pd] | Pd
product | ethyl 3-(7-cyano-4-fluoro-1H-indol-3-yl)propanoate | 6.0 g | C(#N)C=1C=CC(=C2C(=CNC12)CCC(=O)OCC)F | C14H13FN2O2
